Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Ampicillin / Levaquin / metronidazole / fluconazole
 
Attending: ___.
 
Chief Complaint:
Biliary colic
Abdominal pain of escalating frequency with known gallstones
 
Major Surgical or Invasive Procedure:
___: ERCP
___: Laparoscopic cholecystectomy

 
History of Present Illness:
___ year old male with a history of small pancreatic
cysts/IPMN, being followed with serial MRIs. In his last MRI 1
month ago, he was found to have a small filling defect within 
CBD
and multiple gallstones. Patient has been having intermittent 
RUQ
pain over the past year, last one 6 weeks ago for about 3 hours.
Denies any nausea/vomiting, fevers or chills. Patient was taken
for ERCP with sphincterotomy and CBD stone extraction. A surgery
consult for Dr ___ was requested for a laparoscopic
cholecystectomy.

 
Past Medical History:
Hypertension
Atrial fibrillation, no rate control
Choledocholithiasis, confirmed on recent MRCP
___ disease possible per PCP ___ (pt unaware of this 
diagnosis)
Positive PPD (unknown significance)
Trace AI on echo ___
 
Social History:
___
Family History:
Family history of stroke, DM.
 
Physical Exam:
VS: 97.9F 137/95 HR 59 17RR 100% RA
Gen: well-appearing, no distress
HEENT: No JVD, mmm
Lungs: no rales or rhonchi bilaterally
CV: irreg, S1S2, no murmurs
Abd: positive BS, soft, non-tender 
Ext: no pitting edema
Neuro: alert-oriented, conversant. 

On Discharge:
VS: 97.6, 60, 126/72, 18, 97% RA
GEN: NAD, AAO x 3
CV: RRR no r/r/g
Lungs: CTAB
Abd: Laparoscopic ports with occlusive dressing and c/d/i. 
Extr: Warm, no c/c/e
 
Pertinent Results:
___ 08:45AM   UREA N-17 CREAT-1.1 SODIUM-144 POTASSIUM-4.5 
CHLORIDE-105 TOTAL CO2-28 ANION GAP-16 (hemolyzed specimen)
(baseline Cr per ___ records 0.98)
___ 08:45AM   ALT(SGPT)-32 AST(SGOT)-38 ALK PHOS-46 
AMYLASE-91 TOT BILI-1.1 DIR BILI-0.2 INDIR BIL-0.9
___ 08:45AM   LIPASE-29
___ 08:45AM   WBC-6.9 RBC-4.94 HGB-15.8 HCT-46.2 MCV-94 
MCH-32.0 MCHC-34.1 RDW-13.3
___ 08:45AM   PLT COUNT-222
___ 08:45AM   ___ PTT-27.0 ___

ERCP: Normal major papilla 
Cannulation of the biliary duct was performed with a 
sphincterotome using a free-hand technique. A single 7 mm stone 
that was causing partial obstruction was seen at the CBD. 
The CBD appeared dilated to approximately 9mm diffusely.  
A few 4-5mm stones were noted in the proximal cystic duct 
A sphincterotomy was performed in the 12 o'clock position using 
a sphincterotome over an existing guidewire.  
The stone was extracted successfully using a balloon catheter. 
Final cholangiogram did not reveal any further filling defects. 
Excellent drainage of bile and contrast was noted after 
procedure.

___ 05:40AM BLOOD WBC-7.0 RBC-4.03* Hgb-12.9* Hct-38.0* 
MCV-94 MCH-32.0 MCHC-33.9 RDW-13.3 Plt ___
___ 05:40AM BLOOD Glucose-77 UreaN-16 Creat-1.0 Na-143 
K-4.0 Cl-111* HCO3-27 AnGap-9
___ 07:45AM BLOOD ALT-38 AST-40 LD(LDH)-183 AlkPhos-36* 
TotBili-1.9*
 
Brief Hospital Course:
The patient was admitted in ___ with abdominal pain and 
biliary colic. The ERCP was performed on HD # 1, sphincterotomy 
was done with extraction of single stone from CBD. Post ERCP, 
the patient was evaluated by Dr. ___ laparoscopic 
cholecystectomy was scheduled on HD #2. The patient underwent 
laparoscopic cholecystectomy with intraoperative cholangiogram, 
which went well without complication (reader referred to the 
Operative Note for details). After a brief, uneventful stay in 
the PACU, the patient arrived on the floor tolerating clear 
liquid diet , on IV fluids, and Percocet PO for pain control.  
The patient was hemodynamically stable. On POD # 1, patient's 
T-bili started to downward, diet was advanced to regular and was 
tolerated well. The patient has a history of BPH, he was able to 
urinate with some difficulties. Bladder scanner was obtained and 
revealed 300 cc residuals. The patient was started on PO Flomax 
with good result. He was advanced to follow up with PCP if any 
problem arise. The patient was discharged home in stable 
condition. 
.
At the time of discharge, the patient was doing well, afebrile 
with stable vital signs. The patient was tolerating a regular 
diet, ambulating, voiding without assistance, and pain was well 
controlled.  The patient was discharged home without services. 
The patient received discharge teaching and follow-up 
instructions with understanding verbalized and agreement with 
the discharge plan.

 
Medications on Admission:
Omeprazole 20 mg Oral Capsule, Delayed Release(E.C.) TAKE 1 
CAPSULE TWICE DAILY 
MULTIVITAMIN ORAL 1 po qd 
Hydrochlorothiazide 12.5 mg Oral Capsule TAKE 1 CAPSULE by mouth 
DAILY 
CALCIUM-MAGNESIUM 500 MG-250 MG TAB (CALCIUM/MAGNESIUM) 1 daily 
METROGEL 1 % TOPICAL (METRONIDAZOLE) apply once DAILY AS 
DIRECTED for 9 weeks, then AS NEEDED 
ASPIRIN TABLET ___ 325MG PO 1 po qd 
Lisinopril 20mg daily

 
Discharge Medications:
1. omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO BID (2 times a day).  
2. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).
Disp:*60 Capsule(s)* Refills:*2*
3. lisinopril 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
4. hydrocodone-acetaminophen ___ mg Tablet Sig: ___ Tablets PO 
Q6H (every 6 hours) as needed for pain.
Disp:*30 Tablet(s)* Refills:*0*
5. tamsulosin 0.4 mg Capsule, Ext Release 24 hr Sig: One (1) 
Capsule, Ext Release 24 hr PO DAILY (Daily) for 5 days.
Disp:*5 Capsule, Ext Release 24 hr(s)* Refills:*0*
6. hydrochlorothiazide 12.5 mg Capsule Sig: One (1) Capsule PO 
every other day.  
7. CALCIUM-MAGNESIUM 500 MG-250 MG TAB (CALCIUM/MAGNESIUM) 1 
daily 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Choledocholithiasis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Please resume all regular home medications , unless specifically 
advised not to take a particular medication.  Also, please take 
any new medications as prescribed.
Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids.  Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon, who will instruct you further regarding activity 
restrictions.
Avoid driving or operating heavy machinery while taking pain 
medications.
Please follow-up with your surgeon and Primary Care Provider 
(PCP) as advised.
Please go in local ED if you will developed urine retention or 
you will not be able to void.

Incision Care:
*Please call your doctor or nurse practitioner if you have 
increased pain, swelling, redness, or drainage from the incision 
site.
*Avoid swimming and baths until your follow-up appointment.
*You may shower, and wash surgical incisions with a mild soap 
and warm water.  Gently pat the area dry.
*If you have staples, they will be removed at your follow-up 
appointment.
*If you have steri-strips, they will fall off on their own.  
Please remove any remaining strips ___ days after surgery.

 
Followup Instructions:
___